US07915250B2
1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide (88 mg, 0.166 mmol) and 4-methylmorpholine N-oxide (58 mg, 0.496 mmol) were dissolved in acetone/water (4:1; 10 mL) and osmium tetroxide (2.5 wt. % in water; 0.1 mL) was added. The solution was stirred at ambient for 15 h, then was quenched with saturated sodium bisulfite (2 mL) and concentrated in vacuo. The residue was partitioned between ethyl acetate and brine. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification by reverse phase HPLC gave 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-N-(2,3-dihydroxypropyl)-3-hydroxyazetidine-3-carboxamide (68 mg, 0.120 mmol, 72% yield): 1H NMR (400 MHz, d6-DMSO): 8.65 (br s, 1H), 7.72 (t, 1H), 7.58 (dd, 1H), 7.41-7.36 (m, 1H), 7.34-7.28 (m, 1H), 7.21-7.12 (m, 1H), 6.92 (br s, 1H), 6.72 (ddd, 1H), 5.00-4.10 (br, 2H), 5.10-4.99 (m, 2H), 4.39 (d, 1H), 4.20 (d, 1H), 4.02 (d, 1H), 3.54-3.45 (m, 1H), 3.34-3.21 (m, 2H), 3.06-2.96 (m, 1H); MS (EI) for C20H19F3IN3O5: 566 (MH+).

reactant | 1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide | 0.166 mmol, 88 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(C(=O)NCC=C)O)NC1=C(C=C(C=C1)I)F | C20H17F3IN3O3
reactant | 4-methylmorpholine N-oxide | 0.496 mmol, 58 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone water | 10 mL | CC(=O)C.O
catalyst | osmium tetroxide | 0.1 mL | [Os](=O)(=O)(=O)=O
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-N-(2,3-dihydroxypropyl)-3-hydroxyazetidine-3-carboxamide | 0.120 mmol, 68 mg, 72% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(C(=O)NCC(CO)O)O)NC1=C(C=C(C=C1)I)F | C20H19F3IN3O5
